US05679696
A stirred solution of 3-cyclopentyloxy-4-methoxyphenol (0.2 g) and triethylamine (1.35 mL) in dichloromethane (5 mL) is treated portionwise at 0°-5° C. with 2,6-dichlorobenzoyl chloride (0.28 g), and the solution is warmed to room temperature and stirred for a further 2 hours. The reaction mixture is poured into hydrochloric acid (50 ml; 2N) and is extracted with diethyl ether (3×50 mL). The combined organic extracts are then washed with water (100 mL), and brine (100 mL), dried over magnesium sulfate and concentrated. The residual oil is subjected to flash chromatography on silica gel, eluting with a mixture of pentane and ethyl acetate (4:1 v/v), to give (3-cyclopentyloxy-4-methoxyphenyl) 2,6-dichlorobenzoate (0.28 g), m.p. 100°-101 ° C. [Elemental analysis: C,59.7; H,4.7%; calculated: C,59.9; H,4.8%].

reactant | 3-cyclopentyloxy-4-methoxyphenol | 0.2 g | C1(CCCC1)OC=1C=C(C=CC1OC)O | C12H16O3
reactant | triethylamine | 1.35 mL | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichlorobenzoyl chloride | 0.28 g | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (3-cyclopentyloxy-4-methoxyphenyl) 2,6-dichlorobenzoate | 0.28 g | ClC1=C(C(=O)OC2=CC(=C(C=C2)OC)OC2CCCC2)C(=CC=C1)Cl | C19H18Cl2O4
